US04206120
Benzyl 4-(4-methylthio-2-oxoazetidin-1-yl)-2-phenyl-3-oxobutyrate
(4-Methylthio-2-oxoazetidin-1-yl)-acetic acid (175 mg., 1 mmole) was dissolved in a mixture of dry 1,2-dimethoxyethane (2 ml.) and dry ether (5 ml.). The solution was stirred and ice-cooled while 2,6-lutidine (110 mg., 1 mmole) was added followed by a solution of diphenylphosphinic chloride (240 mg., 1 mmole) in dry ether (2 ml.). The mixture was stirred and ice-cooled for 20 minutes. The precipitate was removed by filtration and was washed with dry ether. The solvent was evaporated from the combined filtrate and washings to give a colourless gum (390 mg.). The gum was dissolved in dry 1,2-dimethoxyethane (2 ml.) and the solution was added dropwise to a stirred solution of lithio benzyl acetate (1 mmole) and lithium bis(trimethylsilyl) amide (1 mmole) in dry 1,2-dimethoxyethane (10 ml.) at -70° under dry nitrogen. The mixture was stirred at -70° under dry nitrogen for 1.5 hours and was then poured into ice-water (70 ml.). The aqueous mixture was overlayed with ethyl acetate (50 ml.) and the aqueous layer was brought to pH3 using citric acid solution. The mixture was shaken and the layers were separated. The aqueous layer was extracted once more with ethyl acetate (30 ml.) and the combined organic solutions were washed twice with water (30 ml. portions). The solution was dried (magnesium sulphate) and the solvent was evaporated under reduced pressure to yield a colourless gum (470 mg.). The gum was chromatographed on silica gel (30 g.) using ethyl acetate/petroleum ether (b.p. 60°-80°) to give the title compound as a colourless gum (70 mg, 18% yield). (Found: M+, 383.11906. C12H21NO4S requires 383.11912). νmax (CHCl3): 1760 (β-lactam C=O), 1735 (sh.) and 1720 (sh.) (keto-ester C=O) cm-1. δ(CDCl3): 1.90 (s, 3H, SCH3), 2.81 (dd, J 16, J' 2Hz, 1H, β-lactam CHH), 3.28 (dd, J 16, J' 5Hz, 1H, β-lactam CHH), 3.70 and 3.74 (both d, J 17Hz, 1H, NCHH), 4.26 and 4.28 (both d, J 17Hz, 1H, NCHHCO), 4.60 (dd, J 5, J' 2Hz, 1H, β-lactam CH), 4.71 (s, 1H, COCHCO), 5.14 (s, 2H, OCH2Ph), 7.28 (s, 5H, C6H5), m/e: 383 (M+, 0.5%), 336 (6), 309 (0.5), 275 (1), 267 (0.5), 236 (0.5), 228 (0.9), 226 (0.8), 201 (1.5), 130 (5), 108 (100), 107 (85), 91 (65), 79 (75), 77 (80).

reactant | (4-Methylthio-2-oxoazetidin-1-yl)-acetic acid | 1 mmole, 175 mg | CSC1CC(N1CC(=O)O)=O | C6H9NO3S
reactant | 2,6-lutidine | 1 mmole, 110 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | diphenylphosphinic chloride | 1 mmole, 240 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | lithium bis(trimethylsilyl) amide | 1 mmole | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 4-(4-methylthio-2-oxoazetidin-1-yl)-2-phenyl-3-oxobutyrate | 70 mg, 18% yield | CSC1CC(N1CC(C(C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C21H21NO4S
